US06239147B1
(vii) (2S,3S)-3-(6-Methoxy-1-methyl-1-trifluoromethylisochroman-7-yl)methylamino-2-phenylpiperidine dihydrochloride
To a stirred solution of 1-tert-butoxycarbonyl-(2S,3S)-3-(6-methoxy-1-methyl-1-trifluoromethylisochroman-7-yl)methylamino-2-phenylpiperidine (325 mg, 0.61 mmol) in ethyl acetate (5 ml) was added a methanolic HCl solution dropwise under nitrogen at room temperature for 8 hours. The solvent was removed, and recrystallized from ethanol to give the title compound (88 mg, 28.4%). mp: 193-201° C. 1H-NMR (major isomer, free amine, CDCl3): 7.33-7.20 (m, 5H), 6.95 (s, 1H), 6.43 (s, 1 H), 4.13-4.09 (m, 1H), 3.92-3.84 (m, 2H), 3.62 (d, J=13.9 Hz, 1H), 3.51 (s, 3H), 3.33 (d, J=13.9 Hz, 1H), 3.31-3.24 (m, 1H), 2.84-2.74 (m, 4H), 2.12-2.07 (m, 1H), 1.94-1.82 (m, 1H), 1.67-1.62 (m, 1H), 1.59 (s, 3H), 1.43-1.38 (m, 1H)

reactant | 1-tert-butoxycarbonyl-(2S,3S)-3-(6-methoxy-1-methyl-1-trifluoromethylisochroman-7-yl)methylamino-2-phenylpiperidine | 0.61 mmol, 325 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)NCC1=C(C=C2CCOC(C2=C1)(C(F)(F)F)C)OC)C1=CC=CC=C1 | C29H37F3N2O4
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (2S,3S)-3-(6-Methoxy-1-methyl-1-trifluoromethylisochroman-7-yl)methylamino-2-phenylpiperidine dihydrochloride | 88 mg, 28.4% | Cl.Cl.COC=1C=C2CCOC(C2=CC1CN[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1)(C(F)(F)F)C | InChI=1S/C24H29F3N2O2.2ClH/c1-23(24(25,26)27)19-13-18(21(30-2)14-17(19)10-12-31-23)15-29-20-9-6-11-28-22(20)16-7-4-3-5-8-16;;/h3-5,7-8,13-14,20,22,28-29H,6,9-12,15H2,1-2H3;2*1H/t20-,22-,23?;;/m0../s1
